US07375115B2
(1-Allylcyclohexyl)methanol
To a solution of cyclohexane carbaldehyde (2.24 g) in N,N-dimethylformamide (30 mL) were added potassium tert-butoxide (2.70 g) and allyl bromide (4.33 mL) under ice cooling. The solution was stirred under ice cooling for 30 minutes. Water and 1N hydrochloric acid were then added to the solution, and it was extracted with diethyl ether. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To a solution of the resulting residue in ethanol (60 mL) was added sodium borohydride (567 mg) under ice cooling. The solution was stirred at room temperature for 16 hours. Acetic acid was added to the solution, and it was concentrated under reduced pressure. To the resulting residue was added saturated aqueous sodium bicarbonate solution, and it was extracted with diethyl ether. The organic layer was washed in turn with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, hexane:ethyl acetate=4:1) to give the title compound (1.47 g).

reactant | cyclohexane carbaldehyde | 2.24 g | C1(CCCCC1)C=O | C7H12O
reactant | potassium tert-butoxide | 2.70 g | CC(C)([O-])C.[K+]
reactant | allyl bromide | 4.33 mL | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (1-Allylcyclohexyl)methanol | 1.47 g | C(C=C)C1(CCCCC1)CO | C10H18O
